US07442702B2
(3-{[(4-imidazol-1-yl-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester.
The title compound of Step A was prepared from {3-[(4-imidazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, prepared in Step A of Example 13l, and pyridine-3-sulfonyl chloride hydrochloride, of Preparation 2, following the method described in Example 3, Step B. 1H NMR (400 MHz, CDCl3)δ 9.04 (d, 1H), 8.80 (dd, 1H), 8.06 (d, 1H), 7.83 (s, 1H), 7.44 (dd, 1H), 7.22 (m, 6H), 7.11 (t, 1H), 6.73 (dd, 1H), 6.64 (m, 2H), 4.39 (s, 2H), 4.38 (s, 2H), 4.32 (s, 2H), 1.47 (s, 9H).

reactant | {3-[(4-imidazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1C=NC=C1)=O | C23H27N3O3
reactant | pyridine-3-sulfonyl chloride hydrochloride | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
product | (3-{[(4-imidazol-1-yl-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)N1C=NC=C1)=O | C28H30N4O5S
